### PR TITLE
Proximity Generators Definitions 

### PR DESCRIPTION
**Pull request by katyhr**
This PR achieves four main goals: 

1) formalises main concepts and results from Section `3` of `All Polynomial Generators Preserve Distance
with Mutual Correlated Agreement`. More precisely, 

- Def 3.5 MDS codes
- Lemma 3.6 (+proof)
- Def 3.7
- Def 3.10 generator
- Def 3.11 zero-evading generator
- Def 3.12 MDS generator
- Def 3.14 MCA generator
- Def 3.19 polynomial generator
- Remark 3.20 (plus proof) every polynomial generator is zero-evading

2) missing lemmas for generator matrices + theorem establishing existence of generator matrices
3) Reed-Solomon codes are MDS
4) a "counting" version of Schwartz-Zippel lemma for multivariate polynomials. Needed for the proof of Remark 3.20 but could also be of independent mathematical interest

### CODE REVIEW

File: ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean [hunk 1]
```diff
@@ -0,0 +1,182 @@
...
+each set in the family. -/
+lemma minSeedCard_le {F : Type} {s : ℕ} (S : Fin s → Set F)
+    [∀ i, Fintype ↥(S i)] (hs : 0 < s) (i : Fin s) :
+    minSeedCard S ≤ (S i).toFinset.card := by
+  unfold minSeedCard;
+  split_ifs ; aesop
+
+noncomputable instance {F : Type} [Fintype F] {S : Set F} : Fintype S := Fintype.ofFinite ↑S
+
+set_option linter.unusedDecidableInType false
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean]: For some reason I can't determine whether I prefer having a warning or a linter option 😄 
Maybe this should be set_option linter.unusedDecidableInType false **in**, in case something more is added to the file later on.

I played around with removing both DecidableEqs and quickly recovered an alternative step to replace exact LinearCombination.linearCombination_ne_zero hG.1 hx but didn't spend enough time to replace exact MvPolynomial.totalDegree_linearCombination_le _ _ _ fun j =>
                Finset.le_sup (f := fun j => (P j |> MvPolynomial.totalDegree)) (Finset.mem_univ j)
  · exact minSeedCard_pos S. I don't know if there any obvious alternatives to these with classical that would avoid the need for the warnings/linter option.

File: ArkLib/Data/CodingTheory/Basic/LinearCode.lean [hunk 2]
```diff
@@ -265,6 +253,142 @@ scoped syntax &"ρ" term : term
 scoped macro_rules
   | `(ρ $t:term) => `(LinearCode.rate $t)
 
+/-- Let `c` be a word of length `ι`. For every finite `ι`-subset `T` , we define the projection of a
+word `c` to `T` as the word obtained by restricting the indexing set of `c` to `T`.
+We denote this by `c|[T]`.
+Definition 3.6 [BSGM25]. -/
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/Basic/LinearCode.lean]: This is now defn 3.7 in the most recent version of the pre-print.

File: ArkLib/Data/CodingTheory/Basic/LinearCode.lean [hunk 3]
```diff
@@ -265,6 +253,142 @@ scoped syntax &"ρ" term : term
...
+def projectedWord [Fintype ι] (c : ι → F) (T : Finset ι) : T → F := Set.restrict T c
+
+notation:60 c "|[" T "]" => projectedWord c T
+
+/-- Let `C` be a code of length `ι`. For every finite `ι`-subset `T`, we define the projected code
+`C|[T]` as the set of projected codewords `c|[T]`, for `c ∈ C`.
+Definition 3.6 [BSGM25]. -/
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/Basic/LinearCode.lean]: This is now defn 3.7 in the most recent version of the pre-print, but I think this might be generic enough to not care to link to the specific defn number in the paper? (same way that isMDS below doesn't reference defn 3.5)

File: ArkLib/Data/CodingTheory/Basic/MDSCode.lean [hunk 4]
```diff
@@ -0,0 +1,235 @@
...
+        LinearMap.flip_apply, vecMulBilin_apply, vecMul, single_dotProduct, one_mul,
+        mulVecLin_transpose];
+    have := LinearMap.finrank_range_add_finrank_ker (G.vecMulLinear);
+    simp_all +decide [LinearMap.ker_eq_bot];
+  exact h_injective hrank
+
+/-- A `k × n` matrix is MDS (Maximum Distance Separable) if every square `k × k` submatrix
+obtained by selecting `k` columns has nonzero determinant. Equivalently, every set of `k` columns
+is linearly independent. -/
+def IsMDS [CommRing F] (G : Matrix (Fin k) (Fin n) F) : Prop :=
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/Basic/MDSCode.lean]: duplicate of def Matrix.IsMDS on line 33?

File: ArkLib/Data/CodingTheory/Basic/MDSCode.lean [hunk 5]
```diff
@@ -0,0 +1,235 @@
...
+  refine ne_of_lt (lt_of_le_of_lt h_dist_le_norm (lt_of_le_of_lt hc_norm ?_));
+  simp +decide [length, dim_fromRowGenMat, hrank]
+
+/-- A linear code `LC` of length `ι` and dimension `dim` over a field `F` is MDS if any `dim`
+columns of the generator matrix whose rows are an `F`-basis of `LC` are linearly independent.[GRS25]
+Equivalently, a linear code is MDS if and only if its generator matrix is MDS.
+
+Note: the hypothesis `0 < dim LC` is necessary because for a trivial code `(dim = 0)`,
+`Matrix.IsMDS` is vacuously true while `IsMDS` requires positive distance. -/
+lemma colRank_genMatrix_eq_dim_of_MDS [Field F] [DecidableEq F]
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/Basic/MDSCode.lean:167]: maybe colRank_genMatrix_eq_dim_of_MDS could be renamed colRank_genMatrix_iff_dim_of_MDS?

File: ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean [hunk 6]
```diff
@@ -0,0 +1,182 @@
...
+def IsPolynomialGeneratorOf {s : ℕ} (S : Fin s → Set F) (G : Generator (∀ i, S i) ℓ F)
+  (P : ℓ → MvPolynomial (Fin s) F) : Prop :=
+  LinearIndependent F P ∧ ∀ x : (∀ i, S i), G x = MvPolynomial.eval (fun i ↦ (x i : F)) ∘ P
+
+/-- A matrix whose rows are the outputs of the generator function.
+Defined inside Definition 3.12 [BSGM25]. -/
+def M_G {S : Type} [Nonempty S] [Fintype S] (G : Generator S ℓ F) : Matrix S ℓ F :=
+  Matrix.of G
+
+noncomputable example {S : Type} [Nonempty S] [Fintype S] [DecidableEq F] (G : Generator S ℓ F) :
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean]: Unsure whether you had this there for yourself or if its intended to be an example that you think would be useful to keep long term?

File: ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean [hunk 7]
```diff
@@ -0,0 +1,182 @@
...
+- `MDS generator`: A generator is MDS if the matrix whose rows are the outputs of the generator
+function is a generator matrix for an MDS code
+- `MCA generator`: A generator has mutual correlated agreement (MCA) with error `ε_mca` if the
+probability that the generator satisfies the MCA condition is bounded above by `ε_mca`.
+
+## References
+
+* [Guruswami, V., Rudra, A., Sudan M., *Essential Coding Theory*, online copy][GRS25]
+* [Bordage, S., Chiesa, A., Guan, Z., Manzur, I., *All Polynomial Generators Preserve Distance
+with Mutual Correlated Agreement*][BSGM25]. Full paper : https://eprint.iacr.org/2025/2051}
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean]: BSGM -> BCGM throughout

File: ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean [hunk 8]
```diff
@@ -0,0 +1,182 @@
...
+def IsZeroEvadingGenerator {S : Type} [Nonempty S] [Fintype S] (G : Generator S ℓ F) (ε_ze : I) :
+  Prop :=
+  (sSup {y | ∃ v : ℓ → F, v ≠ 0 ∧ y = Pr_{let x ←$ᵖ S}[dotProduct (G x) v = 0]})
+    ≤ ENNReal.ofReal ε_ze
+
+/-- Let the set `S` be a product of `ℓ` subsets of `F`. A polynomial generator is a generator if
+there exist `ℓ` linearly independent multivariate polynomials, such that the output is an evaluation
+of the seed at each of these polynomials.
+Definition 3.19 [BSGM25]. -/
+def IsPolynomialGenerator {s : ℕ} (S : Fin s → Set F) (G : Generator (∀ i, S i) ℓ F) : Prop :=
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean:64]: Is there a way to explicitly connect IsPolynomialGenerator and IsPolynomialGeneratorOf? 
If IsPolynomialGenerator comes second, then it could probably be written as there exists P that satisfies IsPolynomialGeneratorOf or something along these lines?

File: ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean [hunk 9]
```diff
@@ -0,0 +1,182 @@
...
+  unfold minSeedCard;
+  split_ifs ; aesop
+
+noncomputable instance {F : Type} [Fintype F] {S : Set F} : Fintype S := Fintype.ofFinite ↑S
+
+set_option linter.unusedDecidableInType false
+/-- If `G` is a polynomial generator, then `G` is zero-evading with error the maximum of the total
+degrees of the individual polynomials divided by the size of the smallest evaluation sets `S i`.
+Remark 3.20 [BSGM25]. -/
+theorem remark_3_20
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean]: Maybe an LLM can suggest a name for this

Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean]: The paper provides two forms in this remark, idk if it's worthwhile making a note of this or if we basiclaly expect this form should always do the trick such that no one would wonder about the other form.

File: ArkLib/Data/CodingTheory/Basic/MDSCode.lean [hunk 10]
```diff
@@ -0,0 +1,235 @@
...
+Lay out the fundamental definitions and theorems for maximum distance separable (MDS) codes and
+matrices. Establish an equivalence theorem : A linear code is MDS if and only if its generator
+matrix is MDS.
+
+  ## References
+
+* [Guruswami, V., Rudra, A., Sudan M., *Essential Coding Theory*, online copy][GRS25]
+-/
+
+namespace CoreResults
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/Basic/MDSCode.lean:22]: idk if there's a better name for this namespace in case more results (from another source) are added? Maybe something matrix/linear code related?

File: ArkLib/Data/CodingTheory/Basic/MDSCode.lean [hunk 11]
```diff
@@ -0,0 +1,235 @@
...
+/-- A `k × n` matrix is MDS (Maximum Distance Separable) if every square `k × k` submatrix
+obtained by selecting `k` columns has nonzero determinant. Equivalently, every set of `k` columns
+is linearly independent. -/
+def IsMDS [CommRing F] (G : Matrix (Fin k) (Fin n) F) : Prop :=
+  ∀ σ : Fin k ↪ Fin n, (G.submatrix id σ).det ≠ 0
+
+/-- If a generator matrix is MDS with at least one row, then the code it generates is MDS. -/
+lemma IsMDS_of_matrix_IsMDS [Field F] [DecidableEq F] {G : Matrix (Fin k) (Fin n) F}
+    (hMDS : Matrix.IsMDS G) (hkn : k ≤ n) (hk : 0 < k) : (fromRowGenMat G).IsMDS := by
+  have h_singleton_bound : (Module.finrank F (fromRowGenMat G)) ≤
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/Basic/MDSCode.lean:84]: it's not that important but it's messing with my brain that Lean doesn't throw a warning for patterns like
`
have h_proj_inj : abc := by have h_proj_inj : xyz := by
`

Are some of these haves potentially useful standalone lemmas? h_singleton_bound looks kinda generic and reusable.

File: ArkLib/Data/CodingTheory/ReedSolomon.lean [hunk 12]
```diff
@@ -326,6 +327,15 @@ theorem minDist' {ι : Type*} [Fintype ι] {F : Type*} [Field F] [DecidableEq F]
       simp
     omega
 
+set_option linter.unusedDecidableInType false
```
Comment (alexanderlhicks) [inline ArkLib/Data/CodingTheory/ReedSolomon.lean]: If this stays it should be as set_option linter.unusedDecidableInType false **in**

File: ArkLib/Data/CodingTheory/Basic/LinearCode.lean (hunk 3 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/Basic/LinearCode.lean]: Let me take a look. I haven't seen it elsewhere, but it seems like a reasonable thing to study so it's very plausible

File: ArkLib/Data/CodingTheory/Basic/MDSCode.lean (hunk 10 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/Basic/MDSCode.lean:22]: I saw this namespace being used around, so I thought to stick to the pattern. Will change it!

File: ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean (hunk 1 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/ProximityGap/ProximityGenerators.lean]: Thanks for trying! It seems that it works if I remove the Decidables and just start the proof with the `classical` tactic :)

File: ArkLib/Data/CodingTheory/Basic/MDSCode.lean (hunk 11 above)
Comment (katyhr) [reply ArkLib/Data/CodingTheory/Basic/MDSCode.lean:84]: Yeah.. It's really weird :D  There's no warning at all

**Comment by katyhr** [comment]
@alexanderlhicks comments addressed + rebased + optimised some proofs. ready to re-review, thanks! :)

**Comment by alexanderlhicks** [comment]
Thank yoU!

**Review by alexanderlhicks — APPROVED** [review]
